US06110924
5-[N-(2-hydroxyethyl)piperazinyl]-5-(3-hydroxyphenyl)barbituric acid
To a solution of 5-[N-(2-hydroxyethyl)piperazinyl]-5-[3-(tertbutyldimethylsilyloxy)phenyl]barbituric acid (170 mg) in 12 ml of tetrahydrofuran, kept at 0° C. and under nitrogen atmosphere, are added 333 μl of acetic acid and 0.69 ml of tetrabutylammonium fluoride. The mixture is stirred for 3 hours then the solvent is evaporated off and the residue is purified by silica gel chromatography (15 g; eluent: ethyl acetate/methanol 4:1), to give, after crystallization from methanol, 35 mg of the product, m.p. 219-221° C.

reactant | 5-[N-(2-hydroxyethyl)piperazinyl]-5-[3-(tertbutyldimethylsilyloxy)phenyl]barbituric acid | 170 mg | OCCN1C(CNCC1)C1(C(NC(NC1=O)=O)=O)C1=CC(=CC=C1)O[Si](C)(C)C(C)(C)C | C22H34N4O5Si
reactant | acetic acid | 333 μl | C(C)(=O)O | C2H4O2
reactant | tetrabutylammonium fluoride | 0.69 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
product | 5-[N-(2-hydroxyethyl)piperazinyl]-5-(3-hydroxyphenyl)barbituric acid | OCCN1C(CNCC1)C1(C(NC(NC1=O)=O)=O)C1=CC(=CC=C1)O | C16H20N4O5
